US06124281
7-Chloro-3-(dipropylcarbamoyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione
To a solution of trimethylaluminum in toluene (4.68 mL 9.38 mmol) was added dipropylamine (1.29 mL, 9.38 mmol) and the solution was stirred for 45 hours. A portion (1.9 30 mL) of this solution was added to a solution of 7-chloro-3-(ethoxycarbonyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione (500 mg, 1.56 mmol) in toluene (2 mL). Additional toluene (7 mL) was added. The solution was stirred for 70 minutes at room temperature and then quenched with 1N hydrochloric acid (9.3 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organics were washed with 1N hydrochloric acid and water (25 mL) and concentrated by rotary evaporation. The crude residue was purified by chromatography eluting with hexanes:ethyl acetate (95:5-50:50) to give the title compound (31% yield, m.p. 270° C.).

reactant | trimethylaluminum | C[Al](C)C
reactant | dipropylamine | 9.38 mmol, 1.29 mL | C(CC)NCCC | C6H15N
reactant | 7-chloro-3-(ethoxycarbonyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione | 1.56 mmol, 500 mg | ClC1=CC2=C(C(C3=C(C(N2)=O)NN=C3C(=O)OCC)=O)C=C1 | C14H10ClN3O4
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 9.38 mmol, 4.68 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Chloro-3-(dipropylcarbamoyl)pyrazolo[3,4-c][1]benzazepine-4,10(1H,9H)-dione | 31% yield | ClC1=CC2=C(C(C3=C(C(N2)=O)NN=C3C(N(CCC)CCC)=O)=O)C=C1 | C18H19ClN4O3
